US06380288B1
Synthesis of N′-diphenylmethylenebenzenesulfonohydrazide
A four neck flask (2 liters) equipped with a thermometer, a reflux condenser and a stirrer was charged with 78.4 g (0.4 mol) of benzophenone hydrazone, 64.6 g (0.64 mol) of triethylamine and 1 liter of ether, and 105.6 g (0.6 mol) of benzenesulfonic acid chloride was dropwise added thereto in one hour while stirring at room temperature and then heated under reflux for 72 hours. The reaction liquid was cooled down to 20° C. and then washed (separated) twice with 500 ml of deionized water. The ether layer was dried over anhydrous magnesium sulfate and filtered off, and then the mother liquid was concentrated by means of a rotary evaporator to obtain reddish yellow crystal. This crude crystal was added to 1 liter of diethyl ether and heated under reflux for 30 minutes, and then the crystal was filtered off at 30° C. This was dried under reduced pressure to thereby obtain white crystal.

reactant | benzophenone hydrazone | 0.4 mol, 78.4 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)=NN | C13H12N2
reactant | triethylamine | 0.64 mol, 64.6 g | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonic acid chloride | 0.6 mol, 105.6 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | diethyl ether | 1 liter | C(C)OCC | C4H10O
solvent | ether | 1 liter | CCOCC | C4H10O
product | N′-diphenylmethylenebenzenesulfonohydrazide | C1(=CC=CC=C1)C(=NNS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C19H16N2O2S
